US09210931B2
Step 1: Preparation of N′-(1-Imino-ethyl)-N-methyl-hydrazinecarboxylic acid tert-butyl ester
A solution of tert-butyl 1-methylhydrazinecarboxylate (10.0 g, 68.4 mmol), ethyl acetimidate hydrochloride (42.1 g, 342 mmol), and potassium carbonate (94.4 g, 684 mmol) in DMF (150 mL) was heated at 105° C. for 5 hours. The contents were cooled to 0° C. before the precipitated material was collected by vacuum filtration and resuspended in H2O (100 mL). After 30 minutes of vigorous stirring, the remaining precipitate was collected and dried in a 45° C. vacuum oven overnight to yield the title compound as a white solid (7.56 g, 59.0%): mp 187-189° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.28 (br s, 1H), 2.77 (s, 3H), 1.64 (s, 3H), 1.36 (s, 9H).

reactant | tert-butyl 1-methylhydrazinecarboxylate | 68.4 mmol, 10.0 g | CN(N)C(=O)OC(C)(C)C | C6H14N2O2
reactant | ethyl acetimidate hydrochloride | 342 mmol, 42.1 g | Cl.C(C)(OCC)=N
reactant | potassium carbonate | 684 mmol, 94.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N′-(1-Imino-ethyl)-N-methyl-hydrazinecarboxylic acid tert-butyl ester | 7.56 g, 59.0% | C(C)(C)(C)OC(=O)N(NC(C)=N)C | C8H17N3O2
